US06245746B1
cold solution (0° C.) of Boc-glycine (543 mg, 3.1 mmol), diisopropylethylamine (1 ml, 6.2 mmol), and tetrahydrofuran (10 ml) was treated with PyBrop (1.45 g, 3.1 mmol), followed by the addition of Nα-phenethyl-Nδ-Boc-ornithine 3-phenylpropylamide (1.28 g, 2.8 mmol) in tetrahydrofuran (5 ml). The resulting solution was acetate. The filtrate was concentrated in vacuo and the product purified by chromatography (silica gel—hexane/ethyl acetate) to give N-Boc-glycyl-Nα-phenethyl-Nδ-Boc-ornithine 3-phenylpropylamide (1.2 g).

reactant | Boc-glycine | 3.1 mmol, 543 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | diisopropylethylamine | 6.2 mmol, 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBrop | 3.1 mmol, 1.45 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | Nα-phenethyl-Nδ-Boc-ornithine 3-phenylpropylamide | 2.8 mmol, 1.28 g | C1(=CC=CC=C1)CCCNC([C@@H](NCCC1=CC=CC=C1)CCCNC(=O)OC(C)(C)C)=O | C27H39N3O3
reactant | acetate | C(C)(=O)[O-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-Boc-glycyl-Nα-phenethyl-Nδ-Boc-ornithine 3-phenylpropylamide | 1.2 g | C1(=CC=CC=C1)CCCNC([C@@H](N(CCC1=CC=CC=C1)C(CNC(=O)OC(C)(C)C)=O)CCCNC(=O)OC(C)(C)C)=O | C34H50N4O6
